US04404138
3-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8,9-dihydroxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrobromide
A solution of 3-[2-(3-azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrochloride (10.0 g, 0.020 moles) and 48% aqueous hydrobromic acid (100 ml) is stirred at reflux for 16 hours. The dihydrobromide product (10.7 g) is used as an intermediate without additional purification. A sample recrystallized from aqueous methanol/N,N-dimethylformamide had mp 270° C. (dec).

reactant | 3-[2-(3-azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrochloride | 0.020 moles, 10.0 g | Cl.Cl.C12CN(CC(CC1)CC2)CCN2CC1=C(CC2)C2=C(OC1=O)C=C(C(=C2)OC)OC
reactant | hydrobromic acid | 100 ml | Br | BrH
product | 3-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8,9-dihydroxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrobromide | Br.Br.C12CN(CC(CC1)CC2)CCN2CC1=C(CC2)C2=C(OC1=O)C=C(C(=C2)O)O | InChI=1S/C22H28N2O4.2BrH/c25-19-9-17-16-5-6-23(13-18(16)22(27)28-21(17)10-20(19)26)7-8-24-11-14-1-2-15(12-24)4-3-14;;/h9-10,14-15,25-26H,1-8,11-13H2;2*1H
